US04758614
1-{N-[O-(N,N-dibenzylamino)carboxy]amino}-3-{N-[O-(N,N-dibenzylamino)carboxy]amino}methyl-3,5,5-trimethylcyclohexane.
The procedure of Example 1 is repeated using 10.66 g (50 mmol) of N,N-dibenzylhydroxylamine and 5.56 g (25 mmole) of 3-isocyanatomethyl-3,5,5-trimethylcyclohexylisocyanate. The residue is recrystallized from a 1:1 heptane:toluene solvent mixture to give 11.0 g (68%) of a white soldi, m.p. 139°-146° C.

reactant | N,N-dibenzylhydroxylamine | 50 mmol, 10.66 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | 3-isocyanatomethyl-3,5,5-trimethylcyclohexylisocyanate | 25 mmole, 5.56 g | N(=C=O)CC1(CC(CC(C1)(C)C)N=C=O)C | C12H18N2O2
product | 1-{N-[O-(N,N-dibenzylamino)carboxy]amino}-3-{N-[O-(N,N-dibenzylamino)carboxy]amino}methyl-3,5,5-trimethylcyclohexane | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)OC(=O)NC1CC(CC(C1)(C)C)(C)CNC(=O)ON(CC1=CC=CC=C1)CC1=CC=CC=C1 | C40H48N4O4
